US05627215
(E)-1-Butyl-14-ethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 0.3 g (0.438 mmol) of (E)-1-butyl-14-ethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 6 ml of 3N methanolic hydrochloric acid is stirred for 15 h at room temperature, and then 10 ml of diethyl ether are added. Working up analogously to Example 1 yields the title compound, m.p. >260° C. 1H-NMR (D2O): δ0.91 (t,3H); 1.27(t, 3H); 1.32-1.45(m,2H); 2.05-2.16(m,4H); 3.03-3.19(m,12H); 3.77(d,4H); 6.04-6.07(m,2H).

reactant | (E)-1-butyl-14-ethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 0.438 mmol, 0.3 g | C(CCC)N(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C36H68N4O8
reactant | hydrochloric acid | 3N, 6 ml | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | (E)-1-Butyl-14-ethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C(CCC)NCCCNC\C=C\CNCCCNCC | InChI=1S/C16H36N4.4ClH/c1-3-5-10-18-15-9-16-20-12-7-6-11-19-14-8-13-17-4-2;;;;/h6-7,17-20H,3-5,8-16H2,1-2H3;4*1H/b7-6+;;;;
